US07470699B2
A mixture of 4-chloro-5-methyl-6-(piperidin-4-ylsulfanyl)-pyrimidine (HCl salt, 1.8985 g, 6.77 mmol) and triethylamine (2.825 mL, 0.02 mol) in 50 mL of CH3CN was stirred under room temperature. After 15 min, isopropyl chloroformate (1M in toluene, 8.13 mL, 8.13 mmol) were added slowly under 0° C. Mixture was stirred under room temperature. After 3 h, mixture was concentrated and residue was extracted with EtOAc and saturated NaHCO3. Organic phase was dried over MgSO4, filtered and concentrated to give 4-(6-chloro-5-methyl-pyrimidin-4-ylsulfanyl)-piperidine-1-carboxylic acid isopropyl ester as yellowish oil (1.9143 g, 85%). Exact mass calculated for C14H20ClN3O2S 329.1, found 330.3 (MH+).

reactant | 4-chloro-5-methyl-6-(piperidin-4-ylsulfanyl)-pyrimidine | 6.77 mmol, 1.8985 g | ClC1=NC=NC(=C1C)SC1CCNCC1 | C10H14ClN3S
reactant | triethylamine | 0.02 mol, 2.825 mL | C(C)N(CC)CC | C6H15N
reactant | isopropyl chloroformate | 8.13 mmol, 1M, 8.13 mL | ClC(=O)OC(C)C | C4H7ClO2
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 4-(6-chloro-5-methyl-pyrimidin-4-ylsulfanyl)-piperidine-1-carboxylic acid isopropyl ester | 1.9143 g, 85% | C(C)(C)OC(=O)N1CCC(CC1)SC1=NC=NC(=C1C)Cl | C14H20ClN3O2S
